US05504070
2.4 g of N-(2-ethoxycarbonyl-3-phenylpropyl)-L-valine benzyl ester is dissolved in 50 mL of ethanol, to which is added 500 mg of 10% Pd-C, and the mixture is hydrogenated at 50 psi for 3 h. The resulting mixture is filtered and the solvent removed with a rotoevaporator to afford N-(2-ethoxycarbonyl-3-phenylpropyl)-L-valine.

reactant | N-(2-ethoxycarbonyl-3-phenylpropyl)-L-valine benzyl ester | 2.4 g | C(C1=CC=CC=C1)OC([C@@H](NCC(CC1=CC=CC=C1)C(=O)OCC)C(C)C)=O | C24H31NO4
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd-C | 500 mg | [Pd] | Pd
product | N-(2-ethoxycarbonyl-3-phenylpropyl)-L-valine | C(C)OC(=O)C(CN[C@@H](C(C)C)C(=O)O)CC1=CC=CC=C1 | C17H25NO4
